US08198290B2
Trimethyl 5′-oxo-1′,5′-dihydrospiro[[1,3]dioxolane-2,4′-pyrrolo[2,3-f]quinoline]-2′,7′,9′-tricarboxylate (2)
A suspension of trimethyl 4,5-dioxo-4,5-dihydro-1H-pyrrolo[2,3-f]quinoline-2,7,9-tricarboxylate, 1 (1.2 g, 3.22 mMol) in benzene (200 mL) was treated with ethylene glycol (10 mL) and p-toluensulfonic acid (60 mg, 0.32 mMol). The resulting mixture was heated at reflux under a Dean-Stark trap and reflux condenser for 14 hours. The orange suspension became a yellow solution. The heat was turned off, the trap was removed, and the condenser was replaced. To the hot solution, a mixture of benzene (75 mL) and DCM (75 mL) was cautiously added. The resulting solution was allowed to cool to room temperature, and then washed with 5% aqueous NaHCO3 (100 mL). The organic layer was separated and washed with water (100 mL). The organic layer was separated, dried over Na2SO4, and filtered. Evaporation of solvent at reduced pressure gave a yellow solid. Flash chromatography on silica gel (40 g), eluting with EtOAc-DCM-Hexane (50:25:25) gave purified 2 (1/02 g, 74.4%) as a yellow solid upon evaporation of solvent. 1H-NMR (CDCl3, δ) 12.31 (s, 1H, NH), 8.77 (s, 1H, H-8), 7.15 (d, 1H, H-3), 4.35 (m, 2H, OCH2), 4.30 (m, 2H, OCH2), 4.11 (s, 1H, CO2CH3), 4.07 (s, 1H, CO2CH3), 3.93 (s, 1H, CO2CH3).

reactant | trimethyl 4,5-dioxo-4,5-dihydro-1H-pyrrolo[2,3-f]quinoline-2,7,9-tricarboxylate | O=C1C2=C(C=3C(=CC(=NC3C1=O)C(=O)OC)C(=O)OC)NC(=C2)C(=O)OC | C17H12N2O8
reactant | ethylene glycol | 10 mL | C(CO)O | C2H6O2
reactant | p-toluensulfonic acid | 0.32 mMol, 60 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 200 mL | C1=CC=CC=C1 | C6H6
product | Trimethyl 5′-oxo-1′,5′-dihydrospiro[[1,3]dioxolane-2,4′-pyrrolo[2,3-f]quinoline]-2′,7′,9′-tricarboxylate | O=C1C2(C3=C(C=4C(=CC(=NC14)C(=O)OC)C(=O)OC)NC(=C3)C(=O)OC)OCCO2 | C19H16N2O9
